US04607039
A mixture of o-aminoacetophenone (25 g.) and phenylacetic acid (25 g.) in anhydrous methylene dichloride (200 ml.) was prepared. To that mixture was added dicyclohexylcarbodiimide (40 g.) in portions of approx. 10 g. every 5 min. at ambient temperature. When the addition was completed the mixture was stirred for 4 hr. at ambient temperature. The mixture was then filtered, and the filtrate was evaporated in vacuo to dryness. The residue was crystallised from cyclohexane to give o-acetyl-N-(phenylacetyl)aniline, m.p. 78°.

reactant | o-aminoacetophenone | 25 g | NC1=C(C=CC=C1)C(C)=O | C8H9NO
reactant | phenylacetic acid | 25 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | dicyclohexylcarbodiimide | 40 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene dichloride | 200 ml | C(Cl)Cl | CH2Cl2
product | o-acetyl-N-(phenylacetyl)aniline | C(C)(=O)C1=C(NC(CC2=CC=CC=C2)=O)C=CC=C1 | C16H15NO2
